US06531491B1
A suspension of 3-(E-styryl)-6-phenoxy-4,5-dihydro-1H-indazole (200 mg. 0.64 mmol) and 5% Pd/C (200 mg) in 10 mL of tetralin was heated at 155° C. for 18 h. The catalyst was removed by filtering the hot solution and washed with THF, EtOAc and MeOH. The filtrate was concentrated under reduced pressure and the residue was chromatographed on silica gel eluting hexanes/EtOAc (2:1) to provide 3-(E-styryl)-6-phenoxy-1H-indazole as an off-white solid (110 mg, 55%). 1H NMR (DMSO-d6) δ 6.96 (s, 2H), 7.10 (d, 2H, J=7.7 Hz), 7.20 (t, 1H, J=7.1 Hz), 7.30 (t, 1H, J=7.1 Hz), 7.44 (m, 6H), 7.71 (d, 2H, J=7.5 Hz), 8.20 (d, 1H, J=9.2 Hz), 12.90 (s, 1H). Anal. Calc. for C21H16N2O.0.1H2O: C, 80.28; H, 5.20; N, 8.92. Found: C, 80.20; H, 5.21; N, 8.93.

reactant | 3-(E-styryl)-6-phenoxy-4,5-dihydro-1H-indazole | 0.64 mmol, 200 mg | C(=C\C1=CC=CC=C1)/C1=NNC=2C=C(CCC12)OC1=CC=CC=C1 | C21H18N2O
solvent | tetralin | 10 mL | C1CCCC2=CC=CC=C12 | C10H12
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 3-(E-styryl)-6-phenoxy-1H-indazole | 110 mg, 55% | C(=C\C1=CC=CC=C1)/C1=NNC2=CC(=CC=C12)OC1=CC=CC=C1 | C21H16N2O
